US06043367
N-bromosuccinimide (117.2 mg, 0.66 mmol) and benzoyl peroxide (159 mg, 0.66 mmol) were added to a solution of methyl 1-(2-nitro-4-methylphenyl)-2,3,4-tri-O-acetyl-β-D-glucopyranuronate (206 mg, 0.44 mmol) in carbon tetrachloride (20 ml). The mixture was refluxed for 5 hours and stirred at room temperature for 12 hours. The reaction mixture was evaporated under reduced pressure, and purified by column chromatography on silica gel (ethyl acetate-hexane, 2:3) to give 47 mg of methyl 1-(2-nitro-4-bromomethylene-phenyl)-2,3,4-tri-O-acetyl-β-D-glucopyranuronate in 20% yield. 1H NMR (300 MHz, DMSO-d6) δ1.98-2.02 (m, 9H, CH3), 3.64 (s, 3H, OCH3), 4.73 (s, 2H, CH2), 4.77 (s, 1H, sugar-H), 5.09-5.13 (m, 2H, sugar-H), 5.47 (t, J=9 Hz, 1H, sugar-H), 5.76 (d, J=7.7 Hz, 1H, sugar-H), 7.43 (d, J=8.7 Hz, 1H, ArH), 7.76 (d, J=8.7 Hz, 1H, ArH), 8.02 (s, 1H, ArH).

reactant | N-bromosuccinimide | 0.66 mmol, 117.2 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.66 mmol, 159 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | methyl 1-(2-nitro-4-methylphenyl)-2,3,4-tri-O-acetyl-β-D-glucopyranuronate | 0.44 mmol, 206 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)OC | C20H23NO12
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 1-(2-nitro-4-bromomethylene-phenyl)-2,3,4-tri-O-acetyl-β-D-glucopyranuronate | 47 mg, 20% yield | [N+](=O)([O-])C1=C(C=CC(C1)=CBr)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)OC | C20H22BrNO12
